US05348971
STEP A: Trans (±) 2,3-dihydro-1-(2,5-dihydro-1H-pyrrol-1-yl)-1H-inden-2-ol
A solution of 10 g of 2,5-dihydro-1H-pyrrole (2-butenedioate) and 6 g of sodium carbonate in 20 ml of water was added at 20° C. to a solution of 7.4 g of 1a,6a-dihydro-6H-indeno [1,2-b] oxirene in 5 ml of water and the mixture was heated at 70° C. for 4 hours and allowed to cool to room temperature. 15 ml of sodium hydroxide solution were added and the mixture was extracted with ethyl acetate. The organic phase was dried and evaporated to dryness under reduced pressure to obtain 8.62 g of raw product. The latter was chromatographed over silica and eluted with a 98-2 ethyl acetate-triethylamine mixtures to obtain the desired product.

reactant | 2,5-dihydro-1H-pyrrole (2-butenedioate) | 10 g | C(C=CC(=O)O)(=O)O.N1CC=CC1
reactant | sodium carbonate | 6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1a,6a-dihydro-6H-indeno [1,2-b] oxirene | 7.4 g | O1C2C1CC=1C=CC=CC12 | C9H8O
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | Trans (±) 2,3-dihydro-1-(2,5-dihydro-1H-pyrrol-1-yl)-1H-inden-2-ol | N1(CC=CC1)[C@H]1[C@@H](CC2=CC=CC=C12)O | C13H15NO
